US07977342B2
2-(2-Fluoro-phenyl)-3H-thieno[2,3-d]pyrimidin-4-one
2-(2-Fluoro-benzoylamino)-thiophene-3-carboxylic acid amide (8.56 g, 32.4 mmole) was dissolved in a mixture of 20 ml 1 M sodium hydroxide and 60 ml ethanol. The mixture was brought to reflux for 4 hours. The reaction mixture was cooled and poured onto ice. The solution was acidified with dilute hydrochloric acid and the product was isolated by filtration. Upon vacuum drying 5.42 g of product was obtained (Yield: 68%).

reactant | 2-(2-Fluoro-benzoylamino)-thiophene-3-carboxylic acid amide | 32.4 mmole, 8.56 g | FC1=C(C(=O)NC=2SC=CC2C(=O)N)C=CC=C1 | C12H9FN2O2S
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1 M, 20 ml | [OH-].[Na+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-(2-Fluoro-phenyl)-3H-thieno[2,3-d]pyrimidin-4-one | Yield: 68% | FC1=C(C=CC=C1)C=1NC(C2=C(N1)SC=C2)=O | C12H7FN2OS
